US05026865
2-(3-Dodecyloxy-2-hydroxypropylthio)-5-(3-butyloxy-2-hydroxypropylthio)-1,3,4-thiadiazole
2,5-Dimercapto-1,3,4-thiadiazole(51.64 grams, 0.34 moles) and isopropanol(150 ml) were added to the reaction flask. Dodecyl glycidyl ether(87.35 grams, 0.34 moles) was slowly added with cooling to maintain the temperature below 25° C. Then sodium hydroxide(0.05 grams) was added followed by butyl glycidyl ether (44.91 grams, 0.34 moles). The reaction mixture was refluxed for 15 minutes and the solvent was stripped off by using a rotary evaporator. The product was characterized by infrared absorption bands at 3200, 2900, 1460, 1385, 1260, 1120, 1050, and 710 cm-1.

reactant | 2,5-Dimercapto-1,3,4-thiadiazole | 0.34 moles, 51.64 grams | SC=1SC(=NN1)S | C2H2N2S3
reactant | Dodecyl glycidyl ether | 0.34 moles, 87.35 grams | C(C1CO1)OCCCCCCCCCCCC | C15H30O2
reactant | sodium hydroxide | 0.05 grams | [OH-].[Na+]
reactant | butyl glycidyl ether | 0.34 moles, 44.91 grams | C(C1CO1)OCCCC | C7H14O2
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 2-(3-Dodecyloxy-2-hydroxypropylthio)-5-(3-butyloxy-2-hydroxypropylthio)-1,3,4-thiadiazole | C(CCCCCCCCCCC)OCC(CSC=1SC(=NN1)SCC(COCCCC)O)O | C24H46N2O4S3
